US07531547B2
A mixture of 5-(2-Iodo-5-trimethylsilanylethynyl-phenoxy)-pyrimidine-2,4-diamine (0.4 g, 2.36 mmol), potassium fluoride (41 mg, 7.07 mmol) and HBr (2 drops of 48% aqueous solution) in DMF was stirred at room temperature for 30 minutes. The reaction mixture was diluted with water and EtOAc and basified with 1 mL NH4OH. The organic layer was separated, washed with water and brine, dried over MgSO4, filtered and concentrated under reduced pressure. The residue was chromatographed on silica (4% MeOH in CH2Cl2 with 0.1% NH4OH) to give 0.36 g of 5-(5-Ethynyl-2-iodo-phenoxy)-pyrimidine-2,4-diamine, MP=156-159° C., MS (M+H)=352.

reactant | 5-(2-Iodo-5-trimethylsilanylethynyl-phenoxy)-pyrimidine-2,4-diamine | 2.36 mmol, 0.4 g | IC1=C(OC=2C(=NC(=NC2)N)N)C=C(C=C1)C#C[Si](C)(C)C | C15H17IN4OSi
reactant | potassium fluoride | 7.07 mmol, 41 mg | [F-].[K+]
catalyst | HBr | 2 drops | Br | BrH
solvent | DMF | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | NH4OH | 1 mL | [NH4+].[OH-]
product | 5-(5-Ethynyl-2-iodo-phenoxy)-pyrimidine-2,4-diamine | 0.36 g | C(#C)C=1C=CC(=C(OC=2C(=NC(=NC2)N)N)C1)I | C12H9IN4O
